US07087626B2
2-Dimethylamino-N-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yl]-acetamide
A mixture of dimethylamino-acetyl chloride (620.0 mg, 13.33 mmol), 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ylamine (75 mg, 0.23 mmol), and 4-N,N-dimethylaminopyridine (10.2 mg, 0.09 mmol) in dry pyridine (1 mL) is refluxed for 72 h. The mixture is treated with saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic layer is washed with brine, dried (sodium sulfate), concentrated in vacuo, and the residue chromatographed on SiO2 ((5% to 20% methanol in dichloromethane) to yield a yellow oil, 62.3 mg (67%).

reactant | dimethylamino-acetyl chloride | 13.33 mmol, 620.0 mg | CN(C)CC(=O)Cl | C4H8ClNO
reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ylamine | 0.23 mmol, 75 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)N | C20H17N5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 2-Dimethylamino-N-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yl]-acetamide | CN(CC(=O)NC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)C | C24H24N6O
